US04725592
(a) Production of 1-(3-methylbutyryloxy)-2-methylpropyl 7β-[2-(2-aminothiazol-4-yl)acetamido]-3-acetoacetoxymethyl-ceph-3-em-4-carboxylate
In 30 ml of N,N-dimethylformamide is dissolved 4.76 g of sodium 7β-[2-(2-aminothiazol-4-yl)acetamido]-3-acetoacetoxymethyl-ceph-3-em-4-carboxylate and the solution is cooled to -5° C. With stirring, 5.0 g of 1-iodo-2-methylpropyl 3-methylbutyrate is added dropwise, followed by stirring for further 5 minutes. Thereafter, following the procedupe of Example 1, 2.5 g of the title compound is obtained.

reactant | sodium 7β-[2-(2-aminothiazol-4-yl)acetamido]-3-acetoacetoxymethyl-ceph-3-em-4-carboxylate | 4.76 g | NC=1SC=C(N1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(=O)C)=O)C(=O)[O-])C1=O.[Na+]
reactant | 1-iodo-2-methylpropyl 3-methylbutyrate | 5.0 g | CC(CC(=O)OC(C(C)C)I)C | C9H17IO2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(3-methylbutyryloxy)-2-methylpropyl 7β-[2-(2-aminothiazol-4-yl)acetamido]-3-acetoacetoxymethyl-ceph-3-em-4-carboxylate | 2.5 g | NC=1SC=C(N1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(=O)C)=O)C(=O)OC(C(C)C)OC(CC(C)C)=O)C1=O | C26H34N4O9S2
